US07659245B2
1-Chloro-4-methoxy-5-methyl-2-nitrobenzene (108)
To a stirred solution of 4-chloro-2-methyl-5-nitrophenol (18.8 g, 100 mmol) in DMF (200 ml) was added potassium carbonate (13.8 g, 100 mmol) and methyl iodide (21.3 g, 150 mmol). The mixture was stirred for about two hours at room temperature. 5% Citric acid was added and the mixture was extracted three times with ethyl acetate. The organic phase was washed with brine, dried with sodium sulphate and evaporated under reduced pressure which gave the title compound (20 G, 100%).

reactant | 4-chloro-2-methyl-5-nitrophenol | 100 mmol, 18.8 g | ClC1=CC(=C(C=C1[N+](=O)[O-])O)C | C7H6ClNO3
reactant | potassium carbonate | 100 mmol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 150 mmol, 21.3 g | CI | CH3I
reactant | Citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 1-Chloro-4-methoxy-5-methyl-2-nitrobenzene | 100% | ClC1=C(C=C(C(=C1)C)OC)[N+](=O)[O-] | C8H8ClNO3
